US05672611
4-ETHOXYCARBONYLAMINOPYRIDINE
4-Aminopyridine (17.34 grams) (184.3) was dissolved in dry pyridine (217 ml.) and cooled to 0° C. over 30 minutes. Ethyl chloroformate (17.2 ml.) (180.7 mmoles) was added and the solution was stirred at 0° C. for 1 hour and then at 25° C. for 40 hours. The mixture was diluted with CH2Cl2 and washed with saturated aqueous NaHCO3 and water. The CH2Cl2 was dried (MgSO4), filtered and evaporated to dryness. The residue was chromatographed on silica gel using 2% (10% saturated NH4OH in MeOH)--CH2Cl2 to give the title compound (Yield: 10 grams, 33%, M+ 166).

reactant | 4-Aminopyridine | 17.34 grams | NC1=CC=NC=C1 | C5H6N2
reactant | Ethyl chloroformate | 180.7 mmoles, 17.2 ml | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 217 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-ETHOXYCARBONYLAMINOPYRIDINE | Yield: 10 grams, 33% | C(C)OC(=O)NC1=CC=NC=C1 | C8H10N2O2
